datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[C:21]1=[CH:20]CCC[C:22]1=[O:23].FC(F)(F)[C:64]1=[CH:63][CH:62]=[C:61]([S-:10])[CH:72]=[CH:73]1>>C[C:21]1=[C:22]([O-:23])CCC[CH:20]1[S:10][C:61]1=[CH:62][CH:63]=[C:64](C(F)(F)F)[CH:73]=[CH:72]1 10=20;20,21=21,22;22,23=23"
"C[N+:23](C)=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1.C[Si:63]1(C)CCC[CH:11]([H:10])[CH2:62]1>>C[N:23](C)[CH:22]=[CH:21][CH:20]([H:10])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1.C[Si:63]1(C)CCC[CH+:11][CH2:62]1 10,11=10,20;20,21=21,22;22,23=23"
"C1CC[C:11]2=[N:10]CCC[N:12]2CC1.FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N:10]2CCC[N+:12]3=[C:11]2CCCCC3)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"CCCC[NH2:10].C[Si](C)(C)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCC/[N+:23]1=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>CCCC[NH2+:10][CH:20]([CH:21]=[CH:22][N:23]1CCCC1C(O[Si](C)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10=20;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][C:43](C)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[Ge:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Pb:73](C)(C)C>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([H:10])([C:41]2=[CH:42][C:43](C)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[Ge:63](C)(C)[CH2:62][CH+:11][CH2:72][Pb:73](C)(C)C 10,11=10,20"
"C1=CC=C(O[C:44]2=[CH:43][CH:42]=[C:41]([CH+:20][C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[CH:46]=[CH:45]2)C=C1.[O:10]=[C:11]1[CH:12]=[CH:13][C:14](=[N+:15]([O-:16])[O-:67])[CH:73]=[CH:72]1>>C1=CC=C(O[C:44]2=[CH:43][CH:42]=[C:41]([CH:20]([O:10][C:11]3=[CH:12][CH:13]=[C:14]([N+:15](=[O:16])[O-:67])[CH:73]=[CH:72]3)[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[CH:46]=[CH:45]2)C=C1 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16"
"CN1C(=O)C(CC2=C(F)C(F)=C(F)C(F)=C2F)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C.CO/[C:10](C1=CC=CC=C1)=[C:11]1/[N:12](C2=CC=CC=C2)[N:72]=[C:73](C2=CC=CC=C2)[N:62]1C1=CC=CC=C1>>CO[C:10](C1=CC=CC=C1)([C:11]1=[N+:12](C2=CC=CC=C2)[N:72]=[C:73](C2=CC=CC=C2)[N:62]1C1=CC=CC=C1)[CH:20]([CH:21]=[CH:22][N:23]1C(CC2=C(F)C(F)=C(F)C(F)=C2F)C(=O)N(C)C1(C)C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[CH:20]1C[Fe-2:21]12345(C#[O+])(C#[O+])C1C2C3C4C15.C[N:12]1[CH:11]=[N:10][C:61]2=[C:62]1C=CC=C2>>C[N+:12]1=[CH:11][N:10]([CH:20](C)C[Fe-3:21]2345(C#[O+])(C#[O+])C6C2C3C4C65)[C:61]2=[C:62]1C=CC=C2 10,11=10,20;12=11,12;20,21=21"
"C1=CC=C([S:32]([N:21]([F:20])[S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.C[S+:61](C)/[CH:10]=[C:11](/C1=CC=CC=C1)[O-:12]>>C1=CC=C([S:32]([N-:21][S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.C[S+:61](C)[CH:10]([C:11](C1=CC=CC=C1)=[O:12])[F:20] 10,11=10,20;12=11,12;20,21=21"
"C1C[N:10]2CCN1CC2.O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N:42]O[N:35]=[C:34]12>>O=[N+]([O-])[C:33]1=[CH:32][C:21](=[N+:22]([O-])[O-:23])[CH:20]([N+:10]23CCN(CC2)CC3)[C:41]2=[N:42]O[N:35]=[C:34]12 10=20;20,21=21,22;22,23=23"
"C1=CC=C([S:32]([C:21](=[CH:20][C:51]2=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]2)[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])(=[O:33])=[O:34])C=C1.FC1=C(F)C(F)=C([B-:11](C2=C(F)C(F)=C(F)C(F)=C2F)(C2=C(F)C(F)=C(F)C(F)=C2F)[H:10])C(F)=C1F>>C1=CC=C([S:32]([C-:21]([CH:20]([H:10])[C:51]2=[CH:52][CH:53]=[CH:54][CH:56]=[CH:55]2)[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])(=[O:33])=[O:34])C=C1.FC1=C(F)C(F)=C([B:11](C2=C(F)C(F)=C(F)C(F)=C2F)C2=C(F)C(F)=C(F)C(F)=C2F)C(F)=C1F 10,11=10,20;20,21=21"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].CC[O:92][C:71]([CH-:10][C:61]1=[CH:62][CH:63]=[C:64](C#N)[CH:83]=[CH:82]1)=[O:72]>>CC[O:34][C:32]([C:21]([CH:20]([CH:10]([C:61]1=[CH:62][CH:63]=[C:64](C#N)[CH:83]=[CH:82]1)[C:71](=[O:72])[O:92]CC)[C:41]1=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10=20;20,21=21,22;22,23=23"
"C[CH:20]=[N+:21]1C2=CC=CC=C2C2=C1C=CC=C2.[H:10][Ge:11]([C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1)([C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1)[C:82]1=[CH:83][CH:84]=[CH:85][CH:86]=[CH:87]1>>C[CH:20]([H:10])[N:21]1C2=CC=CC=C2C2=C1C=CC=C2.[Ge+:11]([C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1)([C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1)[C:82]1=[CH:83][CH:84]=[CH:85][CH:86]=[CH:87]1 10,11=10,20;20,21=21"
